US04429135
60 g of hydrazodicarbonamide and 56 g of n-hexylamine are stirred in 100 ml of N-methy pyrrolidone for 6 hours at 150° C., for 20 hours at 175° C. and for 20 hours at 180° C. The solvent is then distilled off in vacuo and the residue is triturated with 100 ml of 10% sodium hydroxide solution. The deposit is isolated by filtration under suction and the filtrate is neutralised with 10% hydrochloric acid. A deposit is precipitated and is isolated by filtration under suction, washed with water and dried in vacuo, giving 75 g (81% of the theoretical yield) of 4-(n-hexyl)-1,2,4-triazolidine-3,5-dione in the form of colourless crystals melting at 144° C. to 145° C.

reactant | hydrazodicarbonamide | 60 g | C(=O)(N)NNC(=O)N | C2H6N4O2
reactant | n-hexylamine | 56 g | C(CCCCC)N | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | N-methy pyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 4-(n-hexyl)-1,2,4-triazolidine-3,5-dione | C(CCCCC)N1C(NNC1=O)=O | C8H15N3O2
